US07064215B2
Synthesis of 3,5-Bis-(1H-benzoimidazol-2-yl)-1H-indazole
The title compound was synthesized from 1H-Indazole-3,5-dicarbaldehyde and 1,2-diaminobenzene using the methods described in Example 4 except that an excess of 1,2-diaminobenzene was used. LC/MS m/z 351.2 (MH+), Rt 2.03 minutes.

reactant | 1H-Indazole-3,5-dicarbaldehyde | N1N=C(C2=CC(=CC=C12)C=O)C=O | C9H6N2O2
reactant | 1,2-diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
product | 3,5-Bis-(1H-benzoimidazol-2-yl)-1H-indazole | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)C2=NC1=C(N2)C=CC=C1 | C21H14N6
